US06887874B2
A solution of 4-hydroxypiperidine (0.5 g, 4.95 mmol) and 7-(3-bromopropoxy)-4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxycinnoline (0.3 g, 0.65 mmol) in DMF (4 ml) was stirred at 60° C. for 30 minutes. The volatiles were removed under vacuum and the residue was purified by column chromatography eluting with ethyl acetate/methylene chloride (1/1) followed by ethyl acetate/methanol/methylene chloride (4/1/5) followed by methylene chloride/methanol saturated with ammonia (9/1). The fractions containing the expected product were combined and evaporated to give 4-(4-fluoro-2-methylindol-5-yloxy)-7-(3-(4-hydroxypiperidin-1-yl)propoxy)-6-methoxycinnoline (25 mg, 8%).

reactant | 4-hydroxypiperidine | 4.95 mmol, 0.5 g | OC1CCNCC1 | C5H11NO
reactant | 7-(3-bromopropoxy)-4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxycinnoline | 0.65 mmol, 0.3 g | BrCCCOC1=C(C=C2C(=CN=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C21H19BrFN3O3
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-(4-fluoro-2-methylindol-5-yloxy)-7-(3-(4-hydroxypiperidin-1-yl)propoxy)-6-methoxycinnoline | 25 mg, 8% | FC1=C2C=C(NC2=CC=C1OC1=CN=NC2=CC(=C(C=C12)OC)OCCCN1CCC(CC1)O)C | C26H29FN4O4
